US06506762B1
B. N-[3-(2,4-dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide
Treat a solution of 3-(2,4-dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-ylamine (0.2 g, 0.65 mmol), and N,N-diisopropylethylamine, (0.12 mL, 0.72 mmol) in 1,2-dichloroethane (10 mL) with chloroacetyl chloride (0.06 mL, 30.72 mmol). Heat the solution to reflux for 2 h, cool to ambient temperature, and pour into an aqueous potassium carbonate solution. Extract the resulting mixture with CH2Cl2 and wash with saturated aq NaCl. Separate the organic layer, dry over Na2SO4, filter, and concentrate. Purify by preparative TLC (5% methanol in CH2Cl2) to obtain the title compound as a yellow solid.

reactant | 3-(2,4-dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-ylamine | 0.65 mmol, 0.2 g | ClC1=C(C=CC(=C1)Cl)N1C(=NC=2C1=NC(=CC2N)C)C | C14H12Cl2N4
reactant | N,N-diisopropylethylamine | 0.72 mmol, 0.12 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloroacetyl chloride | 30.72 mmol, 0.06 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | N-[3-(2,4-dichlorophenyl)-2,5-dimethylimidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide | ClC1=C(C=CC(=C1)Cl)N1C(=NC=2C1=NC(=CC2NC(CCl)=O)C)C | C16H13Cl3N4O
